US07728155B2
Treatment of (±)-tert-butyl(2,3,6,7,8,9-hexahydronaphtho[1,2-b]furan-2-ylmethoxy)dimethylsilane (4.38 g; 0.014 mol) with tetrabutylammonium fluoride (16.5 mL, 1.0 M solution in tetrahydrofuran) generally according to the procedure described for Intermediate 6 afforded 1.9 g (67%) of (±)-2,3,6,7,8,9-hexahydronaphtho[1,2-b]furan-2-ylmethanol as a colorless oil. Rf=0.12 (silica, ethyl acetate:hexanes 1:4); Anal. calcd. for C13H16O2.0.1H2O: C, 75.77; H, 7.92. Found: C, 75.77; H, 7.93.

reactant | (±)-tert-butyl(2,3,6,7,8,9-hexahydronaphtho[1,2-b]furan-2-ylmethoxy)dimethylsilane | 0.014 mol, 4.38 g | C(C)(C)(C)[Si](C)(C)OCC1CC2=C(O1)C=1CCCCC1C=C2 | C19H30O2Si
reactant | tetrabutylammonium fluoride | 1.0 M, 16.5 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | (±)-2,3,6,7,8,9-hexahydronaphtho[1,2-b]furan-2-ylmethanol | 1.9 g, 67% | O1C2=C(CC1CO)C=CC=1CCCCC12 | C13H16O2
